US07132434B2
J) Methyl (2R)-4-[(benzyloxy)amino]-2-[(tert-butoxy-carbonyl)amino]butanoate
J1) To a stirred solution of methyl (2R)-4-[(benzyloxy)imino]-2-[(tert-butoxycarbonyl)-amino]butanoate (1.7 g, 5.0 mmoles) and dry methanol (50 mL) was added sodium cyanoborohydride (0.31 g, 5.0 mmoles) followed dropwise addition of a 1M solution of 4-toluenesulfonic acid (N.B. crystal water present in commercial 4-toluenesulfonic acid has to be removed by azeotropic evaporation with benzene or toluene prior to use) in dry methanol at such a rate so as to keep pH of the mixture at 3–4 (moist indicator paper). After stirring at 22° C. for 2.5 hours TLC and LC indicated a complete reaction. The methanol was stripped off by rotary evaporation leaving a white solid which was taken up in ethyl acetate (100 mL), washed with saturated sodium bicarbonate solution and brine and dried over anhydrous sodium sulfate. Filtration and concentration by rotary evaporation gave 1.7 g of a crude which was chromato-graphed on silica with ethyl acetate/n-heptane (1:5 through 1:3) as eluents. To rid the product from traces of O-benzylhydroxylamine it was chromatographed once more on silica using dichloromethane and dichloromethane/methanol (98:2) as eluents to afford 0.83 g (49% yield) of the subtitle compound as a colourless oil. MS (APCI) m/z 339 (M+1). 1H NMR (CDCl3) δ 7.40–7.27 (m, 5H), 5.47 (br d, J=8 Hz, 1H), 4.74 (s, 2 H), 4.41–4.31 (m, 1H), 3.72 (s, 3H), 3.10–2.93 (m, 2H), 2.20–2.05 (m, 1H), 1.88–1.78 (m, 1H) and 1.43 (s, 9H) ppm.

reactant | methyl (2R)-4-[(benzyloxy)imino]-2-[(tert-butoxycarbonyl)-amino]butanoate | 5.0 mmoles, 1.7 g | C(C1=CC=CC=C1)ON=CC[C@H](C(=O)OC)NC(=O)OC(C)(C)C | C17H24N2O5
reactant | methanol | 50 mL | CO | CH4O
reactant | sodium cyanoborohydride | 5.0 mmoles, 0.31 g | C(#N)[BH3-].[Na+]
reactant | O-benzylhydroxylamine | C(C1=CC=CC=C1)ON | C7H9NO
solvent | 4-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate n-heptane | C(C)(=O)OCC.CCCCCCC
solvent | water | O | H2O
product | Methyl (2R)-4-[(benzyloxy)amino]-2-[(tert-butoxy-carbonyl)amino]butanoate | 0.83 g, 49% yield | C(C1=CC=CC=C1)ONCC[C@H](C(=O)OC)NC(=O)OC(C)(C)C | C17H26N2O5
